US08877782B2
(3-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidin-1-yl)-acetic acid
To a solution of (3-{[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidin-1-yl)-acetic acid ethyl ester (538 mg, 1.1 mmol) in THF (5 mL) was added a solution of lithium hydroxide monohydrate (94 mg, 2.2 mmol) in water (5 mL) and methanol (1 mL) added and the resulting mixture stirred at room temperature overnight. The mixture was acidified to pH 4 with HCl (25%, 3 drops) and methanol (2 drops) added. A gum began to form and the mixture was cooled at 0° C. for 1.5 h and then the aqueous layer decanted off. Trituration with diethylether and hexane afforded the title compound (420 mg, 83%) which was obtained as an off white solid. MS: m/e=449.0 [M−H]−.

reactant | (3-{[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidin-1-yl)-acetic acid ethyl ester | 1.1 mmol, 538 mg | C(C)OC(CN1CC(CCC1)NC(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C26H30N4O5
reactant | lithium hydroxide monohydrate | 2.2 mmol, 94 mg | O.[OH-].[Li+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
catalyst | HCl | 3 drops | Cl | ClH
catalyst | methanol | 2 drops | CO | CH4O
product | (3-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidin-1-yl)-acetic acid | 420 mg, 83% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)C(=O)NC1CN(CCC1)CC(=O)O | C24H26N4O5
